US07935815B2
A 5 N sodium hydroxide solution (3 ml) was added to a solution of tert-butyl 4-(4-chloro-1-ethoxycarbonyl-butan-1-yl)piperidine-1-carboxylate (1.76 g) in THF (5 ml)-ethanol (15 ml), and the reaction solution was stirred at room temperature for four days. Water and diethyl ether were added to the reaction solution, and the aqueous layer was separated. The aqueous layer was washed with diethyl ether again. Then, 5 N hydrochloric acid (3 ml) and ethyl acetate were added to the aqueous layer, and the organic layer was separated. The ethyl acetate extraction layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain crude tert-butyl 4-(1-carboxy-4-chlorobutan-1-yl)piperidine-1-carboxylate (1.25 g).

reactant | sodium hydroxide | 5 N, 3 ml | [OH-].[Na+]
reactant | tert-butyl 4-(4-chloro-1-ethoxycarbonyl-butan-1-yl)piperidine-1-carboxylate | 1.76 g | ClCCCC(C(=O)OCC)C1CCN(CC1)C(=O)OC(C)(C)C | C17H30ClNO4
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-butyl 4-(1-carboxy-4-chlorobutan-1-yl)piperidine-1-carboxylate | 1.25 g | C(=O)(O)C(CCCCl)C1CCN(CC1)C(=O)OC(C)(C)C | C15H26ClNO4
